US08119806B2
Step B: 5,6-bis(nitrooxy)hexyl 3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl carbonate
To a solution of cicletanine (120 mg, 0.55 mmol) in DMF (10 mL) was added Cs2CO3 (373 mg, 1.15 mmol) and followed by 5,6-bis(nitrooxy)hexyl 4-nitrophenyl carbonate (210 mg, 0.54 mmol). The mixture was stirred at rt over night and diluted with H2O, extracted with CH2Cl2 and the organic layer was washed with brine, dried over MgSO4 and concentrated. The residue was purified by flash chromatography (Biotage SP1; column 25M; TLC method: n-hexane/ethyl acetate 5/5; Rf=0.35), affording product. 1H NMR (500 MHz, CDCl3) δ 8.08 (s, 1H), 7.36-7.27 (m, 4H), 6.21 (s, 1H), 5.34 (m, 1H), 5.26 (m, 1H), 5.13 (m, 1H), 4.77 (m, 1H), 4.48 (m, 1H), 4.32 (m, 2H), 2.51 (s, 3H), 1.84 (m, 4H), 1.69-1.55 (m, 2H).

reactant | cicletanine | 0.55 mmol, 120 mg | CC1=C(C2=C(C=N1)C(OC2)C=3C=CC(=CC3)Cl)O | C14H12ClNO2
reactant | Cs2CO3 | 1.15 mmol, 373 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5,6-bis(nitrooxy)hexyl 4-nitrophenyl carbonate | 0.54 mmol, 210 mg | C(OCCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H15N3O11
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 5,6-bis(nitrooxy)hexyl 3-(4-chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl carbonate | C(OCCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC=1C2=C(C=NC1C)C(OC2)C2=CC=C(C=C2)Cl)=O | C21H22ClN3O10
